US07427632B2
4-Chloro-N-[(R)-2-(1-isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]benzamide hydrochloride
Using coupling method B, (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine (150 mg, 0.54 mmol) and 4-chlorobenzoyl chloride (0.14 mL, 1.1 mmol) afforded, after purification (SiO2: 4:2:1 DCM:EtOAc:isopropylamine) and conversion to the HCl salt by general method A, 205 mg (87%) of the title compound.

reactant | (R)-2-(1-isopropylpiperidin-4-ylmethoxy)-1-phenylethylamine | 0.54 mmol, 150 mg | C(C)(C)N1CCC(CC1)COC[C@@H](C1=CC=CC=C1)N | C17H28N2O
reactant | 4-chlorobenzoyl chloride | 1.1 mmol, 0.14 mL | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | 4-Chloro-N-[(R)-2-(1-isopropylpiperidine-4-ylmethoxy)-1-phenylethyl]benzamide hydrochloride | Cl.ClC1=CC=C(C(=O)N[C@@H](COCC2CCN(CC2)C(C)C)C2=CC=CC=C2)C=C1 | InChI=1S/C24H31ClN2O2.ClH/c1-18(2)27-14-12-19(13-15-27)16-29-17-23(20-6-4-3-5-7-20)26-24(28)21-8-10-22(25)11-9-21;/h3-11,18-19,23H,12-17H2,1-2H3,(H,26,28);1H/t23-;/m0./s1
